US09371319B2
Preparation 130: Propyl-6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
Prepared according to Preparation 128 using 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22) and propylchloroformate. 1H-NMR (500 MHz, CDCl3): δ 0.96 (t, J=7.4 Hz, 3H), 1.38 (m, 2H), 3.97 (s, 3H), 4.36 (t, J=6.7 Hz, 2H), 6.59 (s, 1H), 7.62 (s, 1H), 7.65 (s, 1H), 8.17 (s. 1H), 8.56 (s, 1H)

reactant | 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | propylchloroformate | C(CC)OC(=O)Cl | C4H7ClO2
product | Propyl-6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | C(CC)OC(=O)N1C(=CC=2C=NC(=CC21)Br)C=2C=NN(C2)C | C15H15BrN4O2
